US05861407
Step 1: 1-(4-Methylphenylsulfonyl)-4-methanesulfonyloxvmethyl imidazole
Triethylamine (25.9 ml) was added dropwise to a suspension of 4-hydroxymethylimidazole hydrochloride (10.0 g, 74 mmol) in dichloromethane (200 ml) containing 4-methylbenzenesulfonyl chloride (15.6 g) and the mixture stirred overnight before being washed with water and brine, dried (MgSO4), and evaporated to leave a colourless oil. This was chromatographed on silica gel, eluting with ethyl acetate/hexanes to give an oil which solidified on standing (15.0 g). A portion of this solid (1.0 g, 4 mmol) was dissolved in dichloromethane (15 ml), and the solution cooled in an ice bath as triethylamine (0.5 g), followed by methanesulfonyl chloride (0.55 g) in dichloromethane (1 ml) were added dropwise. After tlc indicated reaction to have completed, the mixture was washed with water and brine, then dried (MgSO4), before evaporating to leave the product as a white powder (1.3 g).

reactant | Triethylamine | 25.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxymethylimidazole hydrochloride | 74 mmol, 10.0 g | Cl.OCC=1N=CNC1
reactant | 4-methylbenzenesulfonyl chloride | 15.6 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.55 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-(4-Methylphenylsulfonyl)-4-methanesulfonyloxvmethyl imidazole | 1.3 g | CC1=CC=C(C=C1)S(=O)(=O)N1C=NC(=C1)COS(=O)(=O)C | C12H14N2O5S2
